US04996340
In a manner similar to that described in Example 10, 1.00 g (5.00 mmol) of 1-Chloro-1-dodecyne was hydroaluminated with sodium triethylaluminum hydride and then treated with sodium methoxide. After heating the reaction mixture overnight at 50° C., it was slowly poured into a mixture of 3N HCl and pentane. The aqueous layer was extracted with pentane and the combined organic phase was washed sequentially with 3N HCl, saturated NaHCO3, and saturated NaCl. Analysis by GC (using n-nonane as an internal standard) showed the presence of 4% 1-dodecene, 28% 1-dodecyne, and 68% cis-3-tetradecene. Short-path distillation provided a pure sample of cis-3-tetradecene: bp=57./0.1 torr; IR (neat) 3020 (w), 2960 (s), 2920 (s), 2850 (s), 1655 (w), 1470 (m) cm-1 ; 1H--NMR (CDC13, TMS) 0.85 (t, 3H), 0.95 (t, 3H), 1.2-1.4 (br s, 16H), 2.05 (m, 4H), 5.35 (m, 2H).

reactant | 1-Chloro-1-dodecyne | 5.00 mmol, 1.00 g | ClC#CCCCCCCCCCC | C12H21Cl
reactant | sodium triethylaluminum hydride | [H-].C(C)[Al](CC)CC.[Na+]
reactant | sodium methoxide | C[O-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | pentane | CCCCC | C5H12
product | cis-3-tetradecene | CC\C=C/CCCCCCCCCC | C14H28
